US06448420B1
In 600 ml of benzene was dissolved 125.0 g of 2-ethylbicyclo[2.2.1]heptan-2ol in endo-form. To the solution was added 8.5 g of p-toluenesulfonic acid monohydrate. This reaction mixture was heated, agitated under reflux for 6 hours while removing,water, and subjected to conventional post-treatment. The resulting oily substance was purified by silica gel column chromatography, obtaining 85.9 g of 2-ethylidenebicyclo[2.2.1]heptane. The yield was 78.8%.

reactant | 2-ethylbicyclo[2.2.1]heptan-2ol | 125.0 g | C(C)C1(C2CCC(C1)C2)O | C9H16O
reactant | p-toluenesulfonic acid monohydrate | 8.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 2-ethylidenebicyclo[2.2.1]heptane | 85.9 g, yield was 78.8% | C(C)=C1C2CCC(C1)C2 | C9H14
